### PR TITLE
[Merged by Bors] - feat: The Cauchy-Davenport theorem

### PR DESCRIPTION
**Pull request by YaelDillies**
This PR proves a very general version of the Cauchy-Davenport theorem, namely a lower bound on the size of the product `s * t` of two finsets in terms of the size of `s` and `t`.
We also provide a different proof for linearly ordered cancellative semigroups.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
If this is ready for review, you may have forgotten to add the label

File: Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean [hunk 1]
```diff
@@ -0,0 +1,200 @@
...
+"The **Cauchy-Davenport theorem** for linearly ordered additive cancellative semigroups."]
+lemma Finset.card_add_card_sub_one_le_card_mul [LinearOrder α] [Semigroup α] [IsCancelMul α]
+    [CovariantClass α α (· * ·) (· ≤ ·)] [CovariantClass α α (swap (· * ·)) (· ≤ ·)]
+    {s t : Finset α} (hs : s.Nonempty) (ht : t.Nonempty) : s.card + t.card - 1 ≤ (s * t).card := by
+  --TODO: Remove this hack once we've decided what to do between defining `CancelSemigroup` and
+  -- removing `LeftCancelSemigroup`/`RightCancelSemigroup`.
+  let _ : LeftCancelSemigroup α :=
+    { ‹Semigroup α› with mul_left_cancel := fun _ _ _ ↦ mul_left_cancel }
+  let h : RightCancelSemigroup α :=
+    { ‹Semigroup α› with mul_right_cancel := fun _ _ _ ↦ mul_right_cancel }
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:189]: You should be able to remove these after merging master.

File: Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean [hunk 2]
```diff
@@ -0,0 +1,194 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies, Bhavik Mehta
+-/
+import Mathlib.Combinatorics.Additive.ETransform
+import Mathlib.GroupTheory.Order.Min
+
+/-!
+# The Cauchy-Davenport theorem
+
+This file proves a generalisation of the Cauchy-Davenport theorem to arbitrary groups.
```
Comment (urkud) [inline Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:12]: Please expand docs (both module-level and docstrings of individual theorems) so that they are useful for a reader who doesn't know what is the Cauchy-Davenport theorem.

File: Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean [hunk 3]
```diff
@@ -0,0 +1,217 @@
...
+/-- The relation we induct along in the proof of Cauchy-Davenport theorem. `(s₁, t₁) < (s₂, t₂)` iff
+* `|s₁ * t₁| < |s₂ * t₂|`
+* or `|s₁ * t₁| = |s₂ * t₂|` and `|s₂| + |t₂| < |s₁| + |t₁|`
+* or `|s₁ * t₁| = |s₂ * t₂|` and `|s₁| + |t₁| = |s₂| + |t₂|` and `|s₁| < |s₂|`. -/
+@[to_additive
+"The relation we induct along in the proof of Cauchy-Davenport theorem. `(s₁, t₁) < (s₂, t₂)` iff
+* `|s₁ + t₁| < |s₂ + t₂|`
+* or `|s₁ + t₁| = |s₂ + t₂|` and `|s₂| + |t₂| < |s₁| + |t₁|`
+* or `|s₁ + t₁| = |s₂ + t₂|` and `|s₁| + |t₁| = |s₂| + |t₂|` and `|s₁| < |s₂|`."]
+private def DevosMulRel : Finset α × Finset α → Finset α × Finset α → Prop :=
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:70]: This relation is internal to the proof and really uninteresting. In fact, I need this relation solely because I'm following a very general proof. No other proof uses this relation.

I could inline it at the cost of having to state the lemmas as `have` statements. At the very extreme, it could be a `termination_by` call instead.

The only purpose of having it be separated is for ease of writing and clarity. But it doesn't deserve to be part of the public API.

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:70]: My problem is that you have non-private lemmas talking about a private def, which can lead to weird situations in other files. Either make all of them private, or all of them non-private. 

Can you add in the docstring that this relation is used in the proof of Cauchy-Davenport by a guy named Devos, to clarify the name?

**Comment by sgouezel** [comment]
Does the following stronger statement hold: either `s` and `t` are contained in a subgroup of cardinality at most `#s + #t - 1`, or ` #s + #t - 1 \le #(s * t)`? If so, and if it follows easily from the proof, it might be worth stating it that way first.

File: Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:70]: Ah I see! Be reassured, all lemmas mentioning a `private` declaration in their statement are automatically marked `private` themselves.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:70]: ... Nevermind, it was the case in Lean 3 but this seems to be gone in Lean 4?!

**Comment by sgouezel** [comment]
Sure, your current lemma is not saying anything near what I'm asking. That's why I'm asking :-) If there's a stronger statement which holds, I'd rather have the stronger statement in mathlib. So the question after correcting with translations is : if `#(s * t) < #s + #t - 1`, does there exist a subgroup `H` of cardinality < `#s + #t - 1` such that `s` is contained in a coset `a H` and `t` is contained in a coset `H b`?

**Comment by YaelDillies** [comment]
And the answer is no, I believe, because of my example above.

**Comment by sgouezel** [comment]
I didn't get the example then. Can you spell out the details?

**Comment by YaelDillies** [comment]
I've read more of the literature and this turns out to be a delicate question: See Theorem C in https://arxiv.org/abs/math/0508179.

This says that `|s + t| ≤ |s| + |t| - 1` iff there exist`s₀ ⊆ s`, `t₀ ⊆ t` and a subgroup `H` such that, writing `q : G → G / H` the quotient map,
* each are contained in a coset of `H`
* `(s₀, t₀)` is an "elementary pair" (see the paper for the definition, it's pretty long)
* `s \ s₀`, `t \ t₀` are unions of cosets
* `|q s + q t| = |q s| + |q t| - 1`
* There exist unique `a ∈ q s`, `b ∈ q t` such that `a + b ∈ q s₀ + q t₀` (which is a singleton since `s₀`, `t₀` are contained in a coset of `H`)

In particular, your proposed theorem is very likely wrong since it seems stronger than Kemperman's theorem.

File: Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean [hunk 4]
```diff
@@ -0,0 +1,219 @@
...
+`|s + t| ≥ |s| + |t| - 1` unless the RHS is bigger than the size of the smallest nontrivial subgroup
+(in which case taking `s` and `t` to be that subgroup would yield a counterexample). The motivating
+example is `s = {0, ..., m}`, `t = {0, ..., n}` in the integers, which gives
+`s + t = {0, ..., m + n}` and `|s + t| = m + n + 1 = |s| + |t| - 1`.
+
+There are two kinds of proof of Cauchy-Davenport:
+* The first one works in linear orders by writing `a₁ < ... < aₖ` the elements of `s`,
+  `b₁ < ... < bₗ` the elements of `t`, and arguing that `a₁ + b₁ < ... < aₖ + b₁ < ... < aₖ + bₗ`
+  are distinct elements of `s + t`.
+* The second one works in groups by performing an "e-transform". Replace `s` and `t` by `s ∩ g • s`
```
Comment (sgouezel) [inline Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:25]:
```suggestion
* The second one works in groups by performing an "e-transform". Replace `s` and `t` by `s ∩ s • g`
```

File: Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean [hunk 5]
```diff
@@ -0,0 +1,219 @@
...
+        rwa [← op_smul_eq_mul, op_inv, ← Set.mem_smul_set_iff_inv_smul_mem, smul_comm,
+          ← coe_smul_finset, hsg]
+    refine Or.inl ((minOrder_le_natCard (zpowers_ne_bot.2 hg) <|
+      s.finite_toSet.smul_set.subset hS).trans <| WithTop.coe_le_coe.2 <|
+        ((Nat.card_mono s.finite_toSet.smul_set hS).trans_eq <| ?_).trans <|
+          card_le_card_mul_right _ ht)
+    rw [← coe_smul_finset]
+    simp [-coe_smul_finset]
+  -- Else, we can transform `s`, `t` to `s'`, `t'` and `s''`, `t''`, such that `(s', t')` and
+  -- `(s'', t'')` are both strictly smaller than `(s, t)` according to `DevosMulRel`.
```
Comment (sgouezel) [inline Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean:160]: are they really both strictly smaller, or rather at least one of them is strictly smaller?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/CauchyDavenport.lean]: Ha! You're right, I got myself confused here.
